US08865707B2
Step E. 5-phenyl-1,3-oxazinan-2-one
A cooled (0° C.) solution of 3-amino-2-phenylpropan-1-ol (245 mg, 1.62 mmol) in CH2Cl2 (10 mL) was treated with diisopropylethylamine (1.65 mL, 9.72 mmol) and triphosgene (241 mg, 0.81 mmol), under an atmosphere of nitrogen. The reaction was stirred at 0° C. for an additional 2 h. The reaction was quenched with sat. NaHCO3 (2 mL) and then extracted with EtOAc (3×40 mL). The combined organic extracts were washed with brine (30 mL), dried (MgSO4), filtered and concentrated to afford the title compound as a colorless oil. LCMS=178.2 (M+1)+.

reactant | 3-amino-2-phenylpropan-1-ol | 1.62 mmol, 245 mg | NCC(CO)C1=CC=CC=C1 | C9H13NO
reactant | diisopropylethylamine | 9.72 mmol, 1.65 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triphosgene | 0.81 mmol, 241 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-phenyl-1,3-oxazinan-2-one | C1(=CC=CC=C1)C1CNC(OC1)=O | C10H11NO2
